US06727378B2
Synthesis of (3-hydroxy-butyl)-phenyl Dodecylphosphinic Acid (Ph(OH)P(O)CH2CH2CH(OH)CH3)
The procedure as for Example 5 was repeated using 1.08 g (7.6 mmol) of phenylphosphinic acid, 0.45 g (6.2 mmol) of but-3-en-2-ol and at a temperature of minus 15° C. The reactants were added to 5 g (156 mmol) of methanol. 0.8 ml (0.8 mmol) of molar triethylborane was slowly added to the mix. The yield of product obtained was 84% and was identified by 1H and 31P NMR as (3-hydroxy-butyl) phenylphosphinic acid.

reactant | phenylphosphinic acid | 7.6 mmol, 1.08 g | C1(=CC=CC=C1)P(O)=O | C6H7O2P
reactant | but-3-en-2-ol | 6.2 mmol, 0.45 g | CC(C=C)O | C4H8O
reactant | methanol | 156 mmol, 5 g | CO | CH4O
reactant | triethylborane | 0.8 mmol, 0.8 ml | C(C)B(CC)CC | C6H15B
reactant | (3-hydroxy-butyl) phenylphosphinic acid | OC(CCP(O)(=O)C1=CC=CC=C1)C | C10H15O3P
product | (3-hydroxy-butyl)-phenyl Dodecylphosphinic Acid | OC(CCOP(=O)(CCCCCCCCCCCC)C1=CC=CC=C1)C | C22H39O3P
